US07662771B2
Add a solution of 2 N sodium hydroxide (20 mL) to a solution of methyl 5-[5-(2-methoxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate (3.4 g, 11 mmol) in methanol (50 mL) at room temperature under nitrogen and stir the mixture for 3.5 h. Remove the solvent under reduced pressure, dilute the residue with water (200 mL) and wash with diethyl ether (200 mL). Adjust the aqueous layer to pH 1 with 1 N HCl and collect the solids by vacuum filtration to afford 5-[5-(2-methoxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoic acid (2.2 g, 72%): APCI MS m/z 275 [C14H16N2O4−H]−.

reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | methyl 5-[5-(2-methoxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate | 11 mmol, 3.4 g | COC1=C(C=CC=C1)C1=NC(=NO1)CCCCC(=O)OC | C15H18N2O4
solvent | methanol | 50 mL | CO | CH4O
product | 5-[5-(2-methoxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoic acid | 2.2 g, 72% | COC1=C(C=CC=C1)C1=NC(=NO1)CCCCC(=O)O | C14H16N2O4
